US07932246B2
N-Hydroxy 2-{3-[(2-naphthylsulfonyl)amino]azetidin-1-yl}pyrimidine-5-carboxamide—Example 70
TFA (0.60 ml) was added to a solution of N-(tetrahydro-2H-pyran-2-yloxy) 2-{3-[(2-napthylsulfonyl)amino]azetidin-1-yl}pyrimidine-5-carboxamide (156 mg, 0.32 mmol) in DCM (10 ml) and MeOH (10 ml) at r.t. and the solution stirred at r.t. for 24 h. Further TFA (0.40 ml) was added and stirring continued for a further 18 h. The reaction mixture was concentrated in vacuo and the TFA was removed by azeotroping with DCM to yield a white foam. Trituration in hot DCM (15 ml) and MeOH (1 ml) gave a white precipitate which upon cooling to r.t. was isolated by filtration affording the title compound as a white solid (82 mg, 50%). LCMS purity 100%, m/z 400 [M+H]+, 1H NMR (400 MHz, d5-DMSO) δ: 3.64 (2H, m), 4.12 (2H, t), 4.31 (1H, br s), 7.71-7.76 (2H, m), 7.84 (1H, d), 8.09 (1H, d), 8.18-8.22 (2H, m), 8.49 (1H, s), 8.57 (3H, s), 9.01 (1H, s), 11.07 (1H, s).

reactant | TFA | 0.60 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-(tetrahydro-2H-pyran-2-yloxy) 2-{3-[(2-napthylsulfonyl)amino]azetidin-1-yl}pyrimidine-5-carboxamide | 0.32 mmol, 156 mg | O1C(CCCC1)ONC(=O)C=1C=NC(=NC1)N1CC(C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C23H25N5O5S
reactant | TFA | 0.40 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 10 ml | CO | CH4O
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 ml | CO | CH4O
product | N-Hydroxy 2-{3-[(2-naphthylsulfonyl)amino]azetidin-1-yl}pyrimidine-5-carboxamide | 82 mg, 50% | ONC(=O)C=1C=NC(=NC1)N1CC(C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C18H17N5O4S
